US07288273B1
By use of general procedure B, 2-nitrobenzyl 2,3-bis(3,4,5-tris(benzyloxy)benzoyl)-β-D-glucopyranoside (2.10 g, 1.81 mmol) was coupled with 3-tert-butyldimethylsiloxy-4,5-diphenylmethylenedioxybenzoic acid (1.62 g, 3.62 mmol) to afford 2.99 g (80%) of 2-nitrobenzyl 4,6-bis(3-tert-butyldimethylsiloxy-4,5-diphenylmethylenedioxybenzoyl)-2,3-bis(3,4,5-tris(benzyloxy)benzoyl)-β-D-glucopyranoside as a white solid foam following flash column chromatography using 10%, and then 20%, EtOAc in hexanes as eluent. IR (CH2Cl2) 1729 cm−1; 1H NMR (CDCl3, 75 MHz) δ 8.05 (d, J=1.3 Hz, 1H), 7.98 (d, J=4 Hz, 1H), 7.70-7.15 (m, 60H), 5.84 (t, J=9.7 Hz, 1H), 5.67-5.56 (m, 2H), 5.31 (d, J=15.2 Hz, 2H), 5.13-4.89 (m, 14H), 4.64, (d, J=10.6 Hz, 1H), 4.38-4.32 (m, 1H), 4.15-4.12 (m, 1H), 0.99 (s, 9H), 0.96 (s, 9H) 0.19 (s, 6H), 0.18 (s, 6H); 13C NMR (CDCl3, 75 MHz) δ 165.6, 165.3, 164.9, 164.4, 152.5, 148.6, 146.8, 142.8, 142.0, 141.7, 139.9, 139.6, 138.6, 137.4, 136.5, 133.7, 129.2, 128.9, 128.4, 128.3, 128.1, 128.0, 127.6, 127.5, 126.2, 124.6, 124.2, 124.0, 123.5, 122.5, 119.1, 118.8, 118.2, 109.3, 109.1, 104.1, 100.1, 75.1, 75.0, 73.3, 72.8, 72.3, 71.2, 71.1, 68.9, 68.3, 62.5, 26.05, 26.04, 18.3, 18.2, −4.0; MS (+FAB) 2020 (MH+, 23). Anal. Calcd for Cl21H113NO24Si2: C, 71.92; H. 5.59; N, 0.69; Found: C, 72.16; H, 5.80: N, 0.58.

reactant | 2-nitrobenzyl 2,3-bis(3,4,5-tris(benzyloxy)benzoyl)-β-D-glucopyranoside | 1.81 mmol, 2.10 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)[C@@]2([C@H](OCC3=C(C=CC=C3)[N+](=O)[O-])O[C@@H]([C@H]([C@@]2(O)C(C2=CC(=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)=O)O)CO)O)C=C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C69H61NO16
reactant | 3-tert-butyldimethylsiloxy-4,5-diphenylmethylenedioxybenzoic acid | 3.62 mmol, 1.62 g | O([Si](C)(C)C(C)(C)C)C=1C2=C(C(=O)O)C(=C(C1C1=CC=CC=C1)C1=CC=CC=C1)OCO2 | C26H28O5Si
product | 2-nitrobenzyl 4,6-bis(3-tert-butyldimethylsiloxy-4,5-diphenylmethylenedioxybenzoyl)-2,3-bis(3,4,5-tris(benzyloxy)benzoyl)-β-D-glucopyranoside | 2.99 g, 80% | O([Si](C)(C)C(C)(C)C)C=1C2=C(C(=O)[C@@]3([C@@]([C@]([C@H](OCC4=C(C=CC=C4)[N+](=O)[O-])O[C@@H]3C(O)C(C3=C4C(=C(C(=C3OCO4)C4=CC=CC=C4)C4=CC=CC=C4)O[Si](C)(C)C(C)(C)C)=O)(O)C(C4=CC(=C(C(=C4)OCC4=CC=CC=C4)OCC4=CC=CC=C4)OCC4=CC=CC=C4)=O)(O)C(C4=CC(=C(C(=C4)OCC4=CC=CC=C4)OCC4=CC=CC=C4)OCC4=CC=CC=C4)=O)O)C(=C(C1C1=CC=CC=C1)C1=CC=CC=C1)OCO2 | C121H113NO24Si2
